US05356897
A mixture of 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole (1.016 g), methyl acrylate (10 ml), pyridine (20 ml) and water (5 ml) was refluxed for 8 hours. The mixture was cooled and concentrated in vacuo. The residue was dissolved in a mixture of acetic acid (10 ml) and concentrated hydrochloric acid (1.5 ml). The solution was refluxed for 2 hours, cooled and neutralized with an aqueous saturated sodium bicarbonate solution. The separated solid was collected, washed with water and dried to give 2-(4-fluorophenyl)-5-oxo-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine (750 mg).

reactant | 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | 1.016 g | NC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H11FN4
reactant | methyl acrylate | 10 ml | C(C=C)(=O)OC | C4H6O2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 5 ml | O | H2O
product | 2-(4-fluorophenyl)-5-oxo-3-(pyridin-4-yl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine | 750 mg | FC1=CC=C(C=C1)C1=NN2C(NC(CC2)=O)=C1C1=CC=NC=C1 | C17H13FN4O
